US09353108B2
F) 6-Cyclopropyl-3-ethoxy-2,4′-difluorobiphenyl-4-carbaldehyde
Cyclopropylboronic acid (1.79 g), dicyclohexyl(2′,6′-dimethoxy-[1,1′-biphenyl]-2-yl)phosphine (854 mg), tris(dibenzylideneacetone)dipalladium (0) (953 mg) and 2M aqueous sodium carbonate solution (15.6 mL) were added to a solution of 6-bromo-3-ethoxy-2,4′-difluorobiphenyl-4-carbaldehyde (3.55 g) in toluene (35 mL) at room temperature. The mixture was stirred at 100° C. under argon atmosphere for 16 hours. The mixture was quenched with water at room temperature and filtrated through celite. The filtrate was extracted with ethyl acetate. The organic layer was separated, washed with water and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo. The residue was purified by a silica gel column chromatography (hexane/ethyl acetate) to give the title compound (2.99 g).

reactant | Cyclopropylboronic acid | 1.79 g | C1(CC1)B(O)O | C3H7BO2
reactant | dicyclohexyl(2′,6′-dimethoxy-[1,1′-biphenyl]-2-yl)phosphine | 854 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | sodium carbonate | 2M, 15.6 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 6-bromo-3-ethoxy-2,4′-difluorobiphenyl-4-carbaldehyde | 3.55 g | BrC1=CC(=C(C(=C1C1=CC=C(C=C1)F)F)OCC)C=O | C15H11BrF2O2
solvent | toluene | 35 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium | 953 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 6-Cyclopropyl-3-ethoxy-2,4′-difluorobiphenyl-4-carbaldehyde | 2.99 g | C1(CC1)C1=CC(=C(C(=C1C1=CC=C(C=C1)F)F)OCC)C=O | C18H16F2O2
